US07067658B2
2-Benzyloxy-4-chloro-3-nitro-pyridine (Wilde, et. al. WO 99/01454) (3.8 g, 14.3 mmol) and 2-chloro-5-fluoro-4-methoxyphenylboronic acid (Preparation 1) (3.8 g, 18.6 mmol) were treated substantially as described in Part A of Example 19a to give 3.5 g (63%) of 2-benzyloxy-4-(2-chloro-5-fluoro-4-methoxy-phenyl)-3-nitro-pyridine: 1H NMR (400 MHz, CDCl3) δ ppm 8.30 (d, J=5.4 Hz, 1 H), 7.45–7.42 (m, 2H), 7.40–7.29 (m, 3H), 7.04 (d, J=7.6 Hz, 1 H), 7.00 (d, J=10.8 Hz, 1 H), 6.91 (d, J=5.4 Hz, 1 H), 5.54 (s, 2 H), 3.91 (s, 3 H).

reactant | 2-Benzyloxy-4-chloro-3-nitro-pyridine | 14.3 mmol, 3.8 g | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])Cl | C12H9ClN2O3
reactant | 2-chloro-5-fluoro-4-methoxyphenylboronic acid | 18.6 mmol, 3.8 g | ClC1=C(C=C(C(=C1)OC)F)B(O)O | C7H7BClFO3
product | 2-benzyloxy-4-(2-chloro-5-fluoro-4-methoxy-phenyl)-3-nitro-pyridine | 3.5 g, 63% | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C(=C1)F)OC)Cl | C19H14ClFN2O4
